US05574159
3-Fluoro-N-Methylaniline [NMR (200 MHz, DMSO-d6): δ 2.76 (s, 3H); 3.42 (s, 1H); 6.51-6.92 (m, 3H); 7.28 (dt, J1 =7.3 Hz, J2 =8.0 Hz, 1)], was prepared from 3-fluoroaniline, coupled with 3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-(tert -butyldimethylsilyloxy)benzyl)benzoyl chloride, deprotected and purified by the methods described in Example 10 to give (+)-3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N-(3-fluorophenyl)-N-methylbenzamide as a light yellow powder.

reactant | 3-Fluoro-N-Methylaniline | FC=1C=C(NC)C=CC1 | C7H8FN
reactant | 3-fluoroaniline | FC=1C=C(N)C=CC1 | C6H6FN
reactant | 3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-(tert -butyldimethylsilyloxy)benzyl)benzoyl chloride | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)C=1C=C(C(=O)Cl)C=CC1)C | C29H41ClN2O2Si
product | (+)-3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N-(3-fluorophenyl)-N-methylbenzamide | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC(=CC=C1)O)C=1C=C(C(=O)N(C)C2=CC(=CC=C2)F)C=CC1)C | C30H34FN3O2
